US07851490B2
N-[1-(3-Thiazol-2-yl-phenyl)-1H-benzoimidazol-5-ylmethyl]-acetamide
To a suspension of C-[1-(3-thiazol-2-yl-phenyl)-1H-benzoimidazol-5-yl]-methylamine (0.70 g, 2.3 mmol) in dichloromethane (30 ml) was added acetic anhydride (2.4 ml, 2.5 mmol) dropwise with stirring. After the addition, stirring was continued for 30 min and the reaction mixture was washed twice with saturated, aqueous sodium bicarbonate and once with water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The concentrate was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane, methanol and ammonia (9:1:0.1 v/v/v). This afforded the desired product (0.52 g, 65%). Mp. 156.4° C.

reactant | C-[1-(3-thiazol-2-yl-phenyl)-1H-benzoimidazol-5-yl]-methylamine | 2.3 mmol, 0.70 g | S1C(=NC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)CN | C17H14N4S
reactant | acetic anhydride | 2.5 mmol, 2.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-[1-(3-Thiazol-2-yl-phenyl)-1H-benzoimidazol-5-ylmethyl]-acetamide | 0.52 g, 65% | S1C(=NC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)CNC(C)=O | C19H16N4OS
